US05627191
2-Ethyl-5,7-dimethyl-3H-imidazo[4,5-b]pyridine (2.17 g) was added to stirred fuming sulphuric acid (7 ml) and the resulting solution was warmed to 80° C. Potassium nitrate (3.0 g) was added in portions over a period of 10 minutes and the resulting mixture was heated am between 95 and 100° C. for 10 minutes, cooled, then poured onto ice (approx. 25 g). The mixture was neutralised with concentrated aqueous ammonia solution and then extracted with dichloromethane (2×50 ml). The combined extracts were dried over magnesium sulphate and the solvent was then evaporated. Recrystallization of the resulting residue from ethyl acetate (15 ml) gave the intermediate compound 2-ethyl-5,7-dimethyl-6-nitro-3H-imidazo-[4,5-b]pyridine (1.01 g; m.p. 146°-149° C.).

reactant | 2-Ethyl-5,7-dimethyl-3H-imidazo[4,5-b]pyridine | 2.17 g | C(C)C1=NC=2C(=NC(=CC2C)C)N1 | C10H13N3
reactant | sulphuric acid | 7 ml | S(O)(O)(=O)=O | H2O4S
reactant | Potassium nitrate | 3.0 g | [N+](=O)([O-])[O-].[K+]
reactant | ammonia | N | H3N
product | 2-ethyl-5,7-dimethyl-6-nitro-3H-imidazo-[4,5-b]pyridine | 1.01 g | C(C)C1=NC=2C(=NC(=C(C2C)[N+](=O)[O-])C)N1 | C10H12N4O2
